US04085222
α,5-Dimethyl-2-(m-nitrophenyl)1,3-dioxan-5-methanol
To a solution of 5-methyl-2-(m-nitrophenyl)1,3-dioxan-5-yl methyl ketone (9.0 g) in methanol (100 ml) was added a solution of sodium borohydride (4.5 g) in water (20 ml). The mixture was heated under reflux for 1 hour, methanol was removed in vacuo and the residue was extracted with ether (3 × 100 ml). The extracts were dried (Na2SO4) and concentrated and the residue was crystallised from diethyl ether as pale yellow crystals m.p. 97°, cis isomer.

reactant | 5-methyl-2-(m-nitrophenyl)1,3-dioxan-5-yl methyl ketone | 9.0 g | CC(=O)C1(COC(OC1)C1=CC(=CC=C1)[N+](=O)[O-])C | C13H15NO5
reactant | sodium borohydride | 4.5 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | α,5-Dimethyl-2-(m-nitrophenyl)1,3-dioxan-5-methanol | CC(O)C1(COC(OC1)C1=CC(=CC=C1)[N+](=O)[O-])C | C13H17NO5
